US07078438B2
The product of Example 13, 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methyl-1-pentynyl)anilino]-N-(2-hydroxyethoxy)benzamide was hydrogenated in absolute ethanol in the presence of 5% Pd/C by the general procedure of Example 1, Step D. The resulting crude solid was purified by filtration through a plug of silica (MeOH as eluant) to give 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methylpentyl)anilino]-N-(2-hydroxyethoxy)benzamide (98%) as a light yellow foam (hygroscopic). 1H NMR [400 MHz, (CD3)2SO] δ 9.62 (br s, 1 H), 7.54–7.48 (m, 1 H), 7.04–6.96 (m, 2 H), 6.86 (dd, J=8.2, 1.6 Hz, 1 H), 6.75 (ddd, J=8.6, 5.2 Hz, 1 H), 4.08 (br s, 1 H), 3.80 (t, J=4.9 Hz, 2 H), 3.53 (t, J=4.9 Hz, 2 H), 2.55–2.50 (m, 2 H), 1.60–1.54 (m, 2 H), 1.41 (q, I=7.6 Hz, 2 H), 1.06 (s, 3 H), 0.84 (t, J=7.6 Hz, 3 H). HRMS (EI+) calcd for C21H25F3N2O4 426.1766 (M+), found 426.1770.

reactant | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methyl-1-pentynyl)anilino]-N-(2-hydroxyethoxy)benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CC(CC)(C)O)F | C21H21F3N2O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3,4-difluoro-2-[2-fluoro-4-(3-hydroxy-3-methylpentyl)anilino]-N-(2-hydroxyethoxy)benzamide | 98% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)CCC(CC)(C)O)F | C21H25F3N2O4
